US03960863
3-[2-(4-m-Tolyl-1-piperazinyl)ethyl]-2,7-dimethyl-4H-pyrido[1,2-a]pyrimidin -4-one
A mixture of 2.2 g of 3-(2-chloroethyl)-2,7-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one, 5 g of 1-(m-tolyl)piperazine and 25 ml of toluene was refluxed for 30 hours. After completion of the reaction, the reaction mixture was filtered while hot and the filtrate was concentrated under reduced pressure. The residue was purified by means of column chromatography using alumina and recrystallized from a mixture of ethanol and isopropyl ether to give 2 g of the desired compound as pale yellow prisms, m.p. 115 - 116°C.

reactant | 3-(2-chloroethyl)-2,7-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one | 2.2 g | ClCCC1=C(N=C2N(C1=O)C=C(C=C2)C)C | C12H13ClN2O
reactant | 1-(m-tolyl)piperazine | 5 g | C1(=CC(=CC=C1)N1CCNCC1)C | C11H16N2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(4-m-Tolyl-1-piperazinyl)ethyl]-2,7-dimethyl-4H-pyrido[1,2-a]pyrimidin -4-one | 2 g | C1(=CC(=CC=C1)N1CCN(CC1)CCC1=C(N=C2N(C1=O)C=C(C=C2)C)C)C | C23H28N4O
